US09290487B2
Step 1 Synthesis of 7-bromo-4,5-difluoro-3-methyl-1-benzofuran
An operation similar to that in Step 1 of Example 12 was performed using 2-bromo-4,5-difluorophenol (1.05 g, 5.00 mmol) in place of 2-bromo-4-fluorophenol, and bromoacetone (0.504 mL, 6.00 mmol) in place of bromoacetaldehyde dimethyl acetal to thus obtain the title compound.

reactant | 2-bromo-4,5-difluorophenol | 5.00 mmol, 1.05 g | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | bromoacetone | 6.00 mmol, 0.504 mL | BrCC(C)=O | C3H5BrO
product | 7-bromo-4,5-difluoro-3-methyl-1-benzofuran | yield: 12% | BrC1=CC(=C(C=2C(=COC21)C)F)F | C9H5BrF2O
